US04258185
A solution of 27 g of 4-oxo-4-(indolin-5-yl)-3-methylbutanoic acid hydrochloride and 15 ml of hydrazine hydrate in 200 ml of ethanol was heated under reflux on a water bath for 2 hours. The reaction mixture was concentrated under reduced pressure and water was added to the residue. The precipitated crystals were filtered off, washed with water and recrystallized from ethanol to give 20 g of 5-(5-methyl-3-oxo-2,3,4,5-tetrahydropyridazin-6-yl)indoline as white crystals, melting at 187°-189° C.

reactant | 4-oxo-4-(indolin-5-yl)-3-methylbutanoic acid hydrochloride | 27 g | Cl.O=C(C(CC(=O)O)C)C=1C=C2CCNC2=CC1
reactant | hydrazine hydrate | 15 ml | O.NN
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5-(5-methyl-3-oxo-2,3,4,5-tetrahydropyridazin-6-yl)indoline | 20 g | CC1CC(NN=C1C=1C=C2CCNC2=CC1)=O | C13H15N3O
